US05618941
3-Bromo-5-[(4-fluorophenyl)hydroxymethyl]benzaldehyde
A 2.5M solution of n-butyllithium in hexane (22.0 ml) was added dropwise to a stirred suspension of 1,3,5-tribromobenzene (15.74 g) in dry diethyl ether (500 ml) at -78° C. under an atmosphere of dry nitrogen. The resulting mixture was stirred at this temperature for 30 minutes and then 4-fluorobenzaldehyde (6.83 g) was added dropwise. Stirring at -78° C. was continued for a further 30 minutes and then another equivalent of n-butyllithium (22.0 ml of 2.5M solution in hexane) was added dropwise. The mixture was stirred at -78° C. for another 15 minutes and then N,N-dimethylformamide (15.45 g) was added. Stirring was continued for 1 hour and then water (200 ml) was added. The mixture was allowed to reach room temperature and the organic layer was separated and dried (MgSO4). Evaporation of the solvent gave an oil which was chromatographed on silica gel. Elution with dichloromethane gave impurity, and further elution with dichloromethane/methanol (99:1) gave the title compound as a gum (10.94 g), Rf 0.2 (SS 3). Found: C,53.99; H,3.41. C14H10BrFO2 requires C,54.39; H,3.26%

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,3,5-tribromobenzene | 15.74 g | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
reactant | 4-fluorobenzaldehyde | 6.83 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | n-butyllithium | 2.5M, 22.0 ml | C(CCC)[Li]
reactant | N,N-dimethylformamide | 15.45 g | CN(C=O)C | C3H7NO
solvent | hexane | 22.0 ml | CCCCCC | C6H14
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | water | 200 ml | O | H2O
product | 3-Bromo-5-[(4-fluorophenyl)hydroxymethyl]benzaldehyde | 10.94 g | BrC=1C=C(C=O)C=C(C1)C(O)C1=CC=C(C=C1)F | C14H10BrFO2
